US07491732B2
3-Phenyl-1-propanol (1 mL) and (diethylamino)sulfur trifluoride (1.2 mL) were dissolved in dichloromethane (10 mL). The reaction solution was stirred at rt for 3 d. The reaction mixture was passed through a short silica gel column and washed with dichloromethane. The collected solution was evaporated to give 1-fluoro-3-phenylpropane as light yellow oil. 1H NMR (DMSO-d6): δ 1.84-2.02 (m, 2H), 2.65 (t, J=7.5 Hz, 2H), 4.34 (t, J=5.7 Hz, 1H), 4.50 (t, J=5.7 Hz, 1H), 7.20 (m, 5H); 19F NMR (282 MHz, DMSO-d6): δ −79.22.

reactant | 3-Phenyl-1-propanol | 1 mL | C1(=CC=CC=C1)CCCO | C9H12O
reactant | (diethylamino)sulfur trifluoride | 1.2 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-fluoro-3-phenylpropane | FCCCC1=CC=CC=C1 | C9H11F
